US07737166B2
2-Cyclopropyl-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (I-80)
6-(2-Bromoacetyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-79) (39.98 g, 28.6 mmol) was dissolved in toluene (270 ml), then cesium carbonate (13.02 g, 39.90 mmol) and thioacetamide (2.58 g, 34.28 mmol) were added, followed by stirring at 100° C. for 6 hours under nitrogen atmosphere. The reaction liquid was cooled, the insoluble matter was separated by filtration through Celite, ethyl acetate was added to the filtrate, followed by washing with water and saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was recrystallized and purified with n-hexane/ethyl acetate to obtain the entitled compound (3.96 g, 44%) as a white solid.

reactant | 6-(2-Bromoacetyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 28.6 mmol, 39.98 g | BrCC(=O)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C14H10BrFN2O2
reactant | cesium carbonate | 39.90 mmol, 13.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thioacetamide | 34.28 mmol, 2.58 g | C(C)(=S)N | C2H5NS
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | 3.96 g, 44% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2N=C(SC2)C)C)C#N | C16H12FN3OS
